US04730008
(i) 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-(methylthio)benzene
4-(methylthio)benzeneethanol (7.44 g) and 1,5 dibromopentane (30.48 g) were stirred rapidly at room temperature with TAB (1.0 g) and 12.5M aqueous sodium hydroxide (35 ml) for 64 h. The mixture was diluted with water (170 ml), extracted with ER (3×200 ml), and the combined organic extracts were washed consecutively with water (170 ml) and brine (170 ml), dried and evaporated. The residual oil (29.29 g) was purified by FCC eluting with ER-CX (0:100→3:97) to give the title compound as a colourless oil (10.68 g). T.l.c. (ER-CX 1:79) Rf 0.08.

reactant | 4-(methylthio)benzeneethanol | 7.44 g | CSC1=CC=C(C=C1)CCO | C9H12OS
reactant | 1,5 dibromopentane | 30.48 g | BrCCCCCBr | C5H10Br2
reactant | sodium hydroxide | 12.5M, 35 ml | [OH-].[Na+]
solvent | water | 170 ml | O | H2O
product | 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-(methylthio)benzene | 10.68 g | BrCCCCCOCCC1=CC=C(C=C1)SC | C14H21BrOS
